US07683004B2
This example demonstrates the synthesis and purification of the alpha-hydroxystannane complex Bu3SnCH(OH)Ph. Under nitrogen, a dry 250 mL round bottom flask was charged with 2.0 M isopropyl magnesium chloride in diethyl ether (20.6 mL, 41.2 mmol). An additional 15 mL of diethyl ether was then added. To this stirred solution was added tributyl tin hydride (10.0 g, 34.4 mmol) dropwise over a period of 10-15 min. The resulting reaction mixture was heated to reflux, stirred for 1 h, and then cooled down to about 0° C. Benzaldehyde (4.0 g, 37.8 mmol) was then added dropwise over a period of approximately 10 min while maintaining the temperature at about 0° C. The resulting reaction mixture was then heated to reflux and stirred for 1 h before cooling back down to room temperature. The reaction was then quenched by addition of approximately 15 mL aqueous ammonium chloride under nitrogen. The resulting mixture was filtered through a glass frit and the solids were extracted with diethyl ether. The combined organic extracts were concentrated under vacuum and filtered through Florisil™. The Florisil™ pad was washed further with hexane. The combined organic extracts were concentrated under vacuum to afford an oil. Chromatography on silica gel using 95/5 hexane/ethyl acetate as the eluent afforded 3.95 g of Bu3SnCH(OH)Ph as a pale yellow oil. 1H NMR (CDCl3) δ 7.2 (t, 2H, Hmeta), 7.1 d (d, 12H, Hortho), 7.0 (t, 1H, Hpara), 5.1 [d, 1H, CH(OH)], 1.7 [d, 1H, CH(OH)], 1.4-0.7 (m, 27H, Bu's); 119Sn NMR (CDCl3) δ −25.0 relative to SnMe4; 13C NMR (CDCl3) δ 147.8 (Cipso), 128.4 (Cortho or Cmeta), 124.6 (Cpara), 122.9 Cortho or Cmeta), 71.3 [CH(OH)], 28.9 and 27.4 (CH2's), 13.6 (CH3), 9.1 (CH2).

reactant | isopropyl magnesium chloride | 2.0 M | C(C)(C)[Mg]Cl
reactant | tributyl tin hydride | 34.4 mmol, 10.0 g | C(CCC)[SnH](CCCC)CCCC
reactant | Benzaldehyde | 37.8 mmol, 4.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 41.2 mmol, 20.6 mL | C(C)OCC | C4H10O
product | Bu3SnCH(OH)Ph | 3.95 g | [Sn](CCCC)(CCCC)(CCCC)C(O)C1=CC=CC=C1 | InChI=1S/C7H7O.3C4H9.Sn/c8-6-7-4-2-1-3-5-7;3*1-3-4-2;/h1-6,8H;3*1,3-4H2,2H3;
